US07119122B2
a) 3-Dimethylaminomethyl-2-ethylsulfanyl-phenol hydrobromide
30% Hydrogen bromide in acetic acid (3.6 mL, 18.05 mmol) was added to (2-ethylsulfanyl-3-methoxybenzyl)-dimethylamine (800 mg, 3.55 mmol) and the reaction mixture was heated with stirring at 100° C. After 17 h, the reaction was complete by LC/MS analysis and was then allowed to cool to room temperature. Diethyl ether (1.00 mL) was added with stirring and after 20 min the orange diethyl ether solution was decanted off. This procedure was repeated until a tan solid precipitated. 3-Dimethylaminomethyl-2-ethylsulfanyl-phenol hydrobromide (770 mg, 100%) was filtered off as a tan solid.

reactant | Hydrogen bromide | Br | BrH
reactant | acetic acid | 18.05 mmol, 3.6 mL | C(C)(=O)O | C2H4O2
reactant | (2-ethylsulfanyl-3-methoxybenzyl)-dimethylamine | 3.55 mmol, 800 mg | C(C)SC1=C(CN(C)C)C=CC=C1OC | C12H19NOS
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Diethyl ether | 1.00 mL | C(C)OCC | C4H10O
product | 3-Dimethylaminomethyl-2-ethylsulfanyl-phenol hydrobromide | Br.CN(C)CC=1C(=C(C=CC1)O)SCC | InChI=1S/C11H17NOS.BrH/c1-4-14-11-9(8-12(2)3)6-5-7-10(11)13;/h5-7,13H,4,8H2,1-3H3;1H
